US07109148B2
First, 5.4 g of N-[2-fluoro-5-(2-methoxyphenoxy)-4-nitrophenyl]acetamide was dissolved in 50 ml of methylene chloride, to which 4.7 g of boron tribromide was added under ice cooling. After stirring at the same temperature for 2 hours, concentrated hydrochloric acid was added, and the mixture was poured into water, and the mixture was extracted with ethyl acetate. The organic layer was washed with water, dried over magnesium sulfate, and then concentrated. The resulting crystals were washed with t-butyl methyl ether to give 3.2 g of N-[2-fluoro-5-(2-hydroxyphenoxy)-4-nitrophenyl]acetamide.

reactant | N-[2-fluoro-5-(2-methoxyphenoxy)-4-nitrophenyl]acetamide | 5.4 g | FC1=C(C=C(C(=C1)[N+](=O)[O-])OC1=C(C=CC=C1)OC)NC(C)=O | C15H13FN2O5
reactant | boron tribromide | 4.7 g | B(Br)(Br)Br | BBr3
reactant | hydrochloric acid | Cl | ClH
reactant | water | O | H2O
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | N-[2-fluoro-5-(2-hydroxyphenoxy)-4-nitrophenyl]acetamide | 3.2 g | FC1=C(C=C(C(=C1)[N+](=O)[O-])OC1=C(C=CC=C1)O)NC(C)=O | C14H11FN2O5
